US04921996
N-(6-isocyanato-caproyl)-carbamic acid-β-methoxyethyl ester
8.8 g (50 mmol) of 6-isocyanato-caproyl chloride were introduced into 25 ml of toluene. A mixture of 5.95 g (50 mmol) of carbamic acid-β-methoxyethyl ester, 3.96 g (50 mmol) of pyridine and 15 ml of toluene was added dropwise at 0° C. The mixture was stirred for 6 hours at 25° C. and then heated to 60° C. for 10 hours. It was diluted with 100 ml of toluene and extracted once with 50 ml of 0.1N HCl. The organic phase (MgSO4) was dried and filtered and the solvent was evaporated off. 5.1 g of a product similar in its properties to the product from Example 2 were obtained. Yield: 5.1 g=40%.

reactant | 6-isocyanato-caproyl chloride | 50 mmol, 8.8 g | N(=C=O)CCCCCC(=O)Cl | C7H10ClNO2
reactant | carbamic acid-β-methoxyethyl ester | 50 mmol, 5.95 g | COCCOC(N)=O | C4H9NO3
reactant | pyridine | 50 mmol, 3.96 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | N-(6-isocyanato-caproyl)-carbamic acid-β-methoxyethyl ester | 5.1 g | COCCOC(NC(CCCCCN=C=O)=O)=O | C11H18N2O5
